US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.095 g, 0.03 eq.), 4-iodoanisole (0.786 g, 1.1 eq.), triethylamine (1.3 mL, 3 eq.), and copper (I) iodide (0.035 g, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.85 g, 3.0 mmol, 1.0 eq.) in DMF. The reaction mixture was stirred for about 4 hours and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 4/96 methanol/dichloromethane) to provide an oil. The oil was recrystallized from ethanol to provide 2-ethyl-1-[5-(4-methoxyphenyl)-4-pentynyl]-1H-imidazo[4,5-c]quinolin-4-amine hydroiodide as off white granules, mp 230.0° C. 1H NMR (300 MHz, DMSO-d6) δ 13.14 (broad s, 1H), 8.65 (broad s, 2H), 8.37 (d, J=8.6 Hz, 1H), 7.83 (dd, J=8.4, 0.8 Hz, 1H), 7.68 (t, J=7.4 Hz, 1H), 7.41 (dt, J=8.1, 0.7 Hz, 1H), 7.34 (m, 2H), 6.93 (m, 2H), 4.73 (t, J=7.5 Hz, 2H), 3.77 (s, 3H), 3.08 (q, J=7.4 Hz, 2H), 2.66 (t, J=6.9 Hz, 2H), 2.09 (m, 2H), 1.41 (t, J=7.4 Hz, 3H); MS (APCI) m/z 385 (M+H)+; Anal. calcd for C24H24N4O1.HI.0.08C2H4Cl2: C, 55.30; H, 4.89; N, 10.69. Found: C, 55.39; H, 4.88; N, 10.63.

reactant | 4-iodoanisole | 0.786 g, 1.1 eq. | IC1=CC=C(C=C1)OC | C7H7IO
reactant | triethylamine | 1.3 mL, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.0 mmol, 0.85 g, 1.0 eq. | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#C | C17H18N4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.095 g, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 0.035 g, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[5-(4-methoxyphenyl)-4-pentynyl]-1H-imidazo[4,5-c]quinolin-4-amine hydroiodide | I.C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCC#CC1=CC=C(C=C1)OC | InChI=1S/C24H24N4O.HI/c1-3-21-27-22-23(19-10-6-7-11-20(19)26-24(22)25)28(21)16-8-4-5-9-17-12-14-18(29-2)15-13-17;/h6-7,10-15H,3-4,8,16H2,1-2H3,(H2,25,26);1H
